US06489344B1
1-{6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]amino}-ethyl)amino]-3-pyridyl}ethan-1-one was prepared from [4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-yl]ethylamine and 1-(6-chloro-3-pyridyl)-ethanone (prepared as described in Tetrahedron 48:9233 (1992)) in accordance to the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | [4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-yl]ethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C=NC=C1)CCN | C15H13Cl2N5
reactant | 1-(6-chloro-3-pyridyl)-ethanone | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | 1-{6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]amino}-ethyl)amino]-3-pyridyl}ethan-1-one | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=CC=C(C=N1)C(C)=O | C22H19Cl2N7O
